US04711890
4-[(2-phenylquinazolin-4-yl)-carbonyl]-morpholine
The procedure of Example 24 is followed using ethyl 2-phenylquinazoline-4-carboxylate (3.1 g), morpholine (2 ml), a 1.6M solution of butyllithium in hexane (15 ml) and tetrahydrofuran (20 ml) as the starting materials. After recrystallisation from ethanol, 4-[(2-phenylquinazolin-4-yl)-carbonyl]-morpholine (3 g), melting at 148° C., is obtained.

reactant | ethyl 2-phenylquinazoline-4-carboxylate | 3.1 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)OCC | C17H14N2O2
reactant | morpholine | 2 ml | N1CCOCC1 | C4H9NO
reactant | butyllithium | C(CCC)[Li]
solvent | hexane | 15 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-[(2-phenylquinazolin-4-yl)-carbonyl]-morpholine | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)N1CCOCC1 | C19H17N3O2
